US04272449
Following the procedure described in Example 6, 2 -(2-chloro-4-trifluoromethylphenylamino)-3-methylbutyronitrile is reacted with methanol and hydrogen chloride to give methyl 2-(2-chloro-4-trifluoromethylphenylamino)-3-methylbutanimidate, which is then reacted with 3-phenoxybenzyl alcohol, yielding the desired compound 3-phenoxybenzyl 2-(2-chloro-4-trifluoromethylphenylamino)-3-methylbutanimidate.

reactant | 2 -(2-chloro-4-trifluoromethylphenylamino)-3-methylbutyronitrile | ClC1=C(C=CC(=C1)C(F)(F)F)NC(C#N)C(C)C | C12H12ClF3N2
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | CO | CH4O
product | methyl 2-(2-chloro-4-trifluoromethylphenylamino)-3-methylbutanimidate | ClC1=C(C=CC(=C1)C(F)(F)F)NC(C(OC)=N)C(C)C | C13H16ClF3N2O
